US05654326
Methyl bromoacetate (0.07 ml, 0.78 mmol) was added to 250 mg (0.78 mmol) of 4-Amino-2-Ethyl-α-oxo-1-(phenylmethyl)-1H-indole-3-Acetamide in 4 ml of DMF, stirred at 60° C. for 0.5 hour, and then at room temperature for 20 hours. The mixture was diluted with water and extracted with EtOAc. The EtOAC solution was washed with brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel eluting with Hexane/50 to 100% EtOAc to give 196 mg (64%) of [[3-(Aminooxoacetyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]amino]acetic acid methyl ester melting at 188°-193° C.

reactant | Methyl bromoacetate | 0.78 mmol, 0.07 ml | BrCC(=O)OC | C3H5BrO2
reactant | 4-Amino-2-Ethyl-α-oxo-1-(phenylmethyl)-1H-indole-3-Acetamide | 0.78 mmol, 250 mg | NC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)C(C(=O)N)=O | C19H19N3O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [[3-(Aminooxoacetyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]amino]acetic acid methyl ester | 196 mg, 64% | COC(CNC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)C(C(=O)N)=O)=O | C22H23N3O4
